US04468402
10 Grams of 6-carboxy-3,4-dihydrocarbostyril and 6.0 g of N-hydroxysuccinimide were suspended in 200 ml of dioxane. Then a solution of 12.4 g of dichlorohexylcarbodiimide in 50 ml of dioxane was added drop-wise of the suspension under ice-cooling with stirring. The reaction mixture was heated at 90° C. for 4 hours. After the reaction was completed, the reaction mixture was cooled to a room temperature, and the crystals being precipitated were removed by filtration and the mother liquor was concentrated by distillation. The residue was recrystallized from dimethylformamide-ethanol to obtain 10.8 g of succinimide 3,4-dihydrocarbostyril-6-carboxylate. Melting point: 234.5°-236° C. Colorless flake-like crystals.

reactant | 6-carboxy-3,4-dihydrocarbostyril | C(=O)(O)C=1C=C2CCC(NC2=CC1)=O | C10H9NO3
reactant | N-hydroxysuccinimide | 6.0 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dichlorohexylcarbodiimide | 12.4 g | ClC(CCCCCN=C=N)Cl | C7H12Cl2N2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | succinimide 3,4-dihydrocarbostyril-6-carboxylate | 10.8 g | N1C(=O)CCC2=CC(=CC=C12)C(=O)O.C1(CCC(N1)=O)=O | InChI=1S/C10H9NO3.C4H5NO2/c12-9-4-2-6-5-7(10(13)14)1-3-8(6)11-9;6-3-1-2-4(7)5-3/h1,3,5H,2,4H2,(H,11,12)(H,13,14);1-2H2,(H,5,6,7)
